US07842688B2
d) Benzyl 4-[4-(1-tert-butoxycarbonylazetidin-3-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 13.34 g of benzyl 4-[4-(1-tert-butoxycarbonylazetidin-3-yloxy)phenyl]-3-hydroxypiperidine-1-carboxylate and 8.267 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a yellow oil. Rf=0.33 (2:1 EtOAc-heptane); Rt=5.53.

reactant | benzyl 4-[4-(1-tert-butoxycarbonylazetidin-3-yloxy)phenyl]-3-hydroxypiperidine-1-carboxylate | 13.34 g | C(C)(C)(C)OC(=O)N1CC(C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C27H34N2O6
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 8.267 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 4-[4-(1-tert-butoxycarbonylazetidin-3-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C40H49N3O9
